US07456164B2
4-[4-(3-Thiomorpholin-4-ylpropoxy)phenyl]tetrahydropyran-4-carbonitrile
4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile (750 mg, 3.69 mmol), 4-(3-chloro-propyl)-thiomorpholine (1.06 g, 5.91 mmol), DMF (15 ml) and K2CO3 (2.05 g, 14.83 mmol) were reacted together according to general procedure E. Purification by chromatography on silica, eluant DCM:MeOH:NH3 (96:3:1) provided the title compound (365 mg, 29%) as an off white solid. 1H NMR (400 MHz, CDCl3), δ 7.37 (d, 2H), 6.93 (d, 2H), 4.12-4.04 (m, 2H), 4.01 (t, 2H), 3.89 (td, 2H), 2.77-2.64 (m, 8H), 2.54 (t, 2H), 2.16-1.99 (m, 4H), 1.95 (p, 2H).

reactant | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile | 3.69 mmol, 750 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
reactant | 4-(3-chloro-propyl)-thiomorpholine | 5.91 mmol, 1.06 g | ClCCCN1CCSCC1 | C7H14ClNS
reactant | K2CO3 | 14.83 mmol, 2.05 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-[4-(3-Thiomorpholin-4-ylpropoxy)phenyl]tetrahydropyran-4-carbonitrile | 365 mg, 29% | N1(CCSCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2S
